US04579947
1{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-n-octylurea diihydrochloride
The procedure described in Example 3 was followed, using 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride (3.77 g; 10 mmole), tetrahydrofuran (50 ml), triethylamine (4.2 ml; 30 mmole) and n-octyl isocyanate (1.55 g; 10 mmole). Recrystallization from methanol/ethanol/water provided the title compound (3.1 g; 62% yield) as colorless crystals, m.p. 229°-230° C.

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine trihydrochloride | 10 mmole, 3.77 g | Cl.Cl.Cl.NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl
reactant | triethylamine | 30 mmole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | n-octyl isocyanate | 10 mmole, 1.55 g | C(CCCCCCC)N=C=O | C9H17NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-n-octylurea | 3.1 g, 62% yield | ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NCCCCCCCC)C=C1 | C23H39ClN4O
